US06680329B2
A mixture of methyl (S)-5-(5-amino-2-pyrazinyl)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-pent-4-ynoate (10.0 g; 31.2 mmol), ammonium formate (29.7 g; 468.0 mmol) and active 10% palladium-on-charcoal (1.2 g) in methanol (100 ml) is refluxed for 3 hours. The reaction mixture is filtered and concentrated under reduced pressure. The residue obtained is taken up in ethyl acetate (300 ml), washed with brine (2×200 ml), dried over sodium sulphate, filtered and concentrated under reduced pressure. The residue obtained is purified on a column of silica eluted under pressure with a dichloromethane/methanol mixture (96/4). 7.9 g of methyl (S)-5-(5-amino-2-pyrazinyl)-2-[[(1,1-dimethylethoxy)carbonyl]amino]pentanoate are isolated in the form of a viscous oil.

reactant | methyl (S)-5-(5-amino-2-pyrazinyl)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-pent-4-ynoate | 31.2 mmol, 10.0 g | NC=1N=CC(=NC1)C#CC[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C15H20N4O4
reactant | ammonium formate | 468.0 mmol, 29.7 g | C(=O)[O-].[NH4+]
solvent | methanol | 100 ml | CO | CH4O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 1.2 g | [Pd] | Pd
product | methyl (S)-5-(5-amino-2-pyrazinyl)-2-[[(1,1-dimethylethoxy)carbonyl]amino]pentanoate | 7.9 g, Yield (%)=79 | NC=1N=CC(=NC1)CCC[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C15H24N4O4
